US09353108B2
E) (4,5-Dicyclopropyl-2-ethoxyphenyl)methanol
A THF (15 mL) solution of methyl 4,5-dicyclopropyl-2-ethoxybenzoate (3.26 g) was added at 0° C. to a mixture of lithium aluminum hydride (1.09 g) and THF (65 mL), and the resultant mixture was stirred at room temperature for 1 hour in a nitrogen atmosphere. Water (1 mL), a 1 M aqueous sodium hydroxide solution (1 mL), and water (3 mL) were added in this order to the reaction mixture at 0° C., and the mixture was filtered through celite. Then, the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel chromatography (hexane/ethyl acetate) to obtain the title compound (2.84 g).

reactant | THF | 15 mL | C1CCOC1 | C4H8O
reactant | methyl 4,5-dicyclopropyl-2-ethoxybenzoate | 3.26 g | C1(CC1)C1=CC(=C(C(=O)OC)C=C1C1CC1)OCC | C16H20O3
reactant | lithium aluminum hydride | 1.09 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | THF | 65 mL | C1CCOC1 | C4H8O
reactant | sodium hydroxide | 1 M, 1 mL | [OH-].[Na+]
solvent | water | 3 mL | O | H2O
solvent | Water | 1 mL | O | H2O
product | (4,5-Dicyclopropyl-2-ethoxyphenyl)methanol | 2.84 g | C1(CC1)C1=CC(=C(C=C1C1CC1)CO)OCC | C15H20O2
